US05298652
Sodium hydroxide hydrolysis of N-(2-methoxy-2-oxoethyl)-N-[3-(tetradecyloxy)benzoyl]glycine methyl ester as in Example 4 gave N-(carboxymethyl)-N-[3-(tetradecyloxy)benzoyl]glycine, mp 96°-99°.

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | N-(2-methoxy-2-oxoethyl)-N-[3-(tetradecyloxy)benzoyl]glycine methyl ester | COC(CN(C(C1=CC(=CC=C1)OCCCCCCCCCCCCCC)=O)CC(=O)OC)=O | C27H43NO6
product | N-(carboxymethyl)-N-[3-(tetradecyloxy)benzoyl]glycine | C(=O)(O)CN(CC(=O)O)C(C1=CC(=CC=C1)OCCCCCCCCCCCCCC)=O | C25H39NO6
